US07741327B2
A mixture of 2-amino-benzene-1,3-diol hydrochloride (2.00 g, 12.4 mmol) and trimethyl orthoacetate (15 mL) was treated with concentrated sulfuric acid (5 drops) and the resulting mixture heated at reflux for 3 h, cooled and allowed to stand at room temperature overnight. The resulting mixture was concentrated in vacuo and the residue treated with ethyl acetate (200 mL), washed with water (200 mL) and brine (100 mL). The combined aqueous phases were extracted with ethyl acetate (200 mL) and the combined organic phases washed with brine and dried over sodium sulfate. The mixture was filtered and concentrated in vacuo which afforded benzooxazol-4-ol (0.94 g, 51%) as a yellow solid.

reactant | 2-amino-benzene-1,3-diol hydrochloride | 12.4 mmol, 2.00 g | Cl.NC1=C(C=CC=C1O)O
reactant | trimethyl orthoacetate | 15 mL | C(C)(OC)(OC)OC | C5H12O3
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
product | benzooxazol-4-ol | 0.94 g, 51% | O1C=NC=2C1=CC=CC2O | C7H5NO2
